US08106070B2
Hydrogen chloride (4 M in 1,4-dioxane) (5 mL, 20 mmol) was added to an ambient temperature solution of 2-(acetylamino)-3-(4-bromophenyl)propanoic acid (10 g, 34.9 mmol) in methanol (50 mL). After stirring at ambient temperature overnight, the reaction mixture was concentrated in vacuo to afford methyl 2-(acetylamino)-3-(4-bromophenyl)propanoate which was used in the subsequent step without further purification.

reactant | Hydrogen chloride | 20 mmol, 4 M, 5 mL | Cl | ClH
reactant | 2-(acetylamino)-3-(4-bromophenyl)propanoic acid | 34.9 mmol, 10 g | C(C)(=O)NC(C(=O)O)CC1=CC=C(C=C1)Br | C11H12BrNO3
reactant | methanol | 50 mL | CO | CH4O
product | methyl 2-(acetylamino)-3-(4-bromophenyl)propanoate | C(C)(=O)NC(C(=O)OC)CC1=CC=C(C=C1)Br | C12H14BrNO3
